Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ is a ___ year old man with recent diagnosis of MM
s/p cytoxan for stem cell mobilization, who presents with 1 day
of chest pain. 

Mr ___ received cytoxan ___ for stem cell mobilization.
Afterward, he started filgrastim as directed, injecting 480 mcg
daily from ___ with plan to escalate to 2 injections daily
on ___.

This morning, he began to develop sternal and lower back pain. 
At
first, he felt it was tolerable. He started Claritin, since he
was advised last week that it might help with bony pain from
G-CSF. He presented to his oncology appointment later in the
morning and reported moderate bony pain. 

However, after returning home, he had worsening pain and became
nauseous. He reports he had multiple episodes of emesis--
vomiting clear to green liquid (no blood). His pain became
progressively more severe, primarily in the lower back, where it
was ___ and constant over the next 8 hours. During this time
period, he also had intermittent throbbing sternal pain, up to
___, but less constant than his back pain. He also noticed 
some
bilateral clavicular and posterior knee pain since the onset of
his bony pains. This is far less intense than his sternal/back
pain and primarily feels like a "soreness". 

He presented to OSH ED. EKG and labs were reassuring against 
ACS.
Chest and L spine Xrays were unremarkable. He was given 5 mg
valium and 12 mg morphine without improvement in pain, so he was
transferred to ___ for admission for pain control. 

On ROS, Mr ___ denies associated SOB, palpitations,
heartburn, radiating pain up the neck or down the arm. No chest
pressure. No pleuritic pain. No lightheadedness/dizziness,
headache. No fevers, chills, cold symptoms, cough, dysuria. 

In the ED: T 98.7 F | 107 | 146/95 | 97% RA. He was noted to be
grimacing in pain with tenderness to palpation over the sternum.
He was given 1 mg IV dilaudid x 2, 4 mg Zofran, 0.5 mg lorazepam
and 1L LR. EKG showed NSR at 87, normal axis. Normal intervals.
No ischemic changes. Troponin repeated and was negative. 

On arrival, Mr ___ states his pain is much improved since
admission. Now down to a ___. He was nauseous after dilaudid +
the ambulance ride to the ___ and vomited a scant amount
of clear liquid just after arrival.

All other review of systems are negative unless stated otherwise

 
Past Medical History:
=== PAST MEDICAL HISTORY ===
- HTN
- HLP
- Anxiety
- Myeloma nephropathy
- R hip replacement ___

ONCOLOGIC HISTORY
Presented in ___ with worsening back pain.  He had chronic
back pain that he thought was related to work.  He reports that
in ___ he was lifting boxes at work can he developed
worsening of his low back pain.  He states his this lasted over 
a
couple weeks and ended up seeing his PCP in ___.  He then
presented at ___ where an MRI was performed that
showed concern for cauda equina syndrome and severe spinal
stenosis of L4-L5.  He was then transferred to ___ for further
care. An MRI showed severe canal stenosis with near complete
obliteration of the thecal sac at L4-5 due to disc bulge severe
bilateral facet arthroplasty and ligament flavum thickening.  
Her
Dr. ___ he was evaluated by
orthospine and was neurologically intact on exam and they
recommended steroids and outpatient follow-up.  His labs were
notable for a creatinine of 12.5 corrected calcium of 9.7 total
protein of 11.3 with an albumin of 2.9 hemoglobin of 6.6.  He
underwent a CT of the abdomen and pelvis which did not show any
evidence of urinary obstruction and did reveal multiple lytic
bone lesions.  Renal was consulted.  He was noted to have a 1.5 
g
of proteinuria.  SPEP which showed an IgG of 6450.  He had a CT
myeloma survey on ___ which showed no lytic or blastic
osseous lesions or extra medullary disease.  He had an elevated
beta 2 microglobulin of greater than 40,000.  A UPEP showed a
small amount of lambda ___ protein.  His IgG was 5450 
and
IgA of 11 and an IgM of 17 with a 4.9 g protein.  A kappa free
light chain was 19.9 with a lambda light chain of 9534.  He
underwent a fat pad fine-needle biopsy on ___ where no
malignant cells were identified.  The patient was then started 
on
hemodialysis.  He then underwent a CT-guided bone marrow biopsy
on ___.  The path revealed a hypercellular marrow with
maturing trilineage hematopoiesis and scattered reactive
lymphocyte aggregates and involvement of plasma cell myeloma. 
Plasma cells comprised of 75% of the cellularity.  It is unclear
if cytogenetics were done.  While hospitalized at ___ he was
initiated on myeloma therapy with Velcade and dexamethasone. 
Cycle 1 day 1 was ___.  He was discharged home on
___.  With follow-up with Dr. ___ in ___. 
Cytoxan was added on day 8 of cycle 2.  He is s/p currently in
cycle 6 of cycle CyBorD treated locally with Dr. ___. He was
then started on RVD  (revlimid of 5mg on ___
along with velcade and dexamethasone) in ___ and has
completed 2 cycles. 

___: HD cytoxan                       

 
Social History:
___
Family History:
Family History:
M (l) 80 - HTN, thyroid CA, HLD
F (d) 69 - Mesothelioma
PGF- colon CA
PGM- DM
MGM- Stroke
3 sisters and 5 brothers all alive and well. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VITALS: ___ 0453 Temp: 98.3 PO BP: 175/112 R Lying HR: 94
RR: 18 O2 sat: 93% O2 delivery: RA 

General: Well appearing pleasant Caucasian man, resting in bed 
in
no acute distress. Cheerful and talkative. 
Neuro: Alert, attentive, provides clear history. PERRL, Palate
elevates symmetrically, able to ambulate and sit up in bed with
exam without difficulty 
HEENT: Oropharynx clear, dry mucus membranes
Cardiovascular: RRR no murmurs 
Chest/Pulmonary: Clear to auscultation bilaterally, good air
movement
Sternum nontender to palpation 
Abdomen: Soft, nontender, nondistended. Bowel sounds present 
Pelvis/GU: No flank pain
Back: No focal spinal tendnerness to palpation
Extr/MSK: WWP, no pitting edema, no calf tenderness
Skin: Slightly flushed on arrival. Otherwise no obvious rashes
Access: PIV

DISCHARGE PHYSICAL EXAM
Vitals per flow sheet
General: Well appearing pleasant Caucasian man, resting in bed 
in
no acute distress. Cheerful and talkative. 
Neuro: Alert, attentive, provides clear history. PERRL, Palate
elevates symmetrically, able to ambulate and sit up in bed with
exam without difficulty 
HEENT: Oropharynx clear, dry mucus membranes
Cardiovascular: RRR no murmurs 
Chest/Pulmonary: Clear to auscultation bilaterally, good air
movement
Sternum nontender to palpation 
Abdomen: Soft, nontender, nondistended. Bowel sounds present 
Pelvis/GU: No flank pain
Back: No focal spinal tendnerness to palpation
Extr/MSK: WWP, no pitting edema, no calf tenderness
Skin: Slightly flushed on arrival. Otherwise no obvious rashes
Access: PIV

 
Pertinent Results:
ADMISSION LABS
----------------

___ 02:22AM BLOOD WBC-5.0 RBC-3.22* Hgb-10.4* Hct-29.3* 
MCV-91 MCH-32.3* MCHC-35.5 RDW-12.5 RDWSD-41.5 Plt ___
___ 02:22AM BLOOD Neuts-29* Bands-1 ___ Monos-18* 
Eos-9* ___ Metas-2* Myelos-3* Promyel-2* Other-6* 
AbsNeut-1.50* AbsLymp-1.50 AbsMono-0.90* AbsEos-0.45 
AbsBaso-0.00*
___ 02:22AM BLOOD Glucose-105* UreaN-26* Creat-1.8* Na-138 
K-4.4 Cl-102 HCO3-21* AnGap-15
___ 12:55PM BLOOD ALT-14 AST-34 AlkPhos-115 TotBili-0.4
___ 12:55PM BLOOD Calcium-9.3 Phos-2.4* Mg-1.8

DISCHARGE LABS
------------------

___ 06:03AM BLOOD WBC-53.6* RBC-2.89* Hgb-9.4* Hct-26.2* 
MCV-91 MCH-32.5* MCHC-35.9 RDW-13.8 RDWSD-45.4 Plt ___
___ 06:03AM BLOOD Neuts-79* Bands-7* Lymphs-2* Monos-3* 
Eos-0* ___ Metas-6* Myelos-2* Blasts-1* NRBC-0.7* 
AbsNeut-46.10* AbsLymp-1.07* AbsMono-1.61* AbsEos-0.00* 
AbsBaso-0.00*
___ 06:03AM BLOOD Plt Smr-LOW* Plt ___
___ 06:03AM BLOOD Glucose-53* UreaN-11 Creat-1.8* Na-146 
K-3.4* Cl-104 HCO3-24 AnGap-18
___ 06:03AM BLOOD ALT-12 AST-32 LD(LDH)-975* AlkPhos-205* 
TotBili-0.3
___ 06:03AM BLOOD Albumin-3.6 Calcium-9.0 Phos-3.5 Mg-1.4*
 
Brief Hospital Course:
___ with recent diagnosis of MM s/p cytoxan for stem cell
mobilization, who presents with 1 day of severe sternal and 
lower
back pain in the setting of of G-CSF administration. 

ACUTE CONDITITIONS
--------------------
# HTN: BP's had been persistently elevated as an outpatient and
during last admission, and was hypertensive on this admission.
Home dose of Amlodipine increased to 10mg PO daily on admission,
was normotensive during admission until ___ evening w/ BP's
165/11. He was rechecked and lower manually. 

# Multiple myeloma
# CKD in s/o myeloma kidney
# ___ on CKD
Underwent stem cell mobilization in preparation for planned
collection ___. Had an appropriate collection, does not
need to collect again tomorrow. Most recently BM bx ___ with 5%
plasma cells.  He has chronic kidney disease that is attributed
to known myeloma. ___ in the setting of poor PO's and
emesis. Believe ___ is most likely pre-renal in etiology given
recent n/v and decreased PO's previously, but also considering
medication effect. Supported with IVF boluses and mIVF, renal
function now returned to baseline. 
- Continue acyclovir and levofloxacin per ___ protocol
- to have labs locally next week to assess creatinine

#Folliculitis: new red non-pruritic rash to hair bearing areas 
on
face and chest. Started on Bactroban to affected sites on ___.

# Atypical chest pain, back pain
# Nausea/vomiting
Sternal pain and back pain are likely secondary to neupogen. No
red flag symptoms c/w ACS. Biomarkers and EKG were negative for
ACS on admission. PE not ruled out but unlikely given
characteristic bony pain from G-CSF that was reproducible in ED
prior to IV dilaudid. CXR at OSH no acute abnormalities per
report. Pain is much improved and well managed with PO regimen.
His nausea/vomiting were likely in the s/o his significant
pain/discomfort as well as from opiates, now improved. 
- Continue PO oxycontin with oxycodone for breakthrough.  
- Continue loratadine 10 mg daily (started on ___
- Compazine PRN and Zofran PRN

# Opiate-induced constipation, risk for:
No current s/s of constipation, but given opiates will start PRN
bowel regimen. LBM ___. Continue standing bowel regimen. Will
consider adding Dulcolax PO if no BM. 
- standing senna, colace, miralax

CHRONIC/RESOLVED ISSUES:

# Anxiety: No acute exacerbations. Continue home Ativan PRN and 
seroquel qHS

# GERD: No acute exacerbations. Continues on home Omeprazole
daily

# Nicotine dependence: Continue 21 mg patch. Declines 
lozenge/gum

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. amLODIPine 5 mg PO DAILY 
3. LORazepam 0.5 mg PO DAILY 
4. Prochlorperazine 5 mg PO Q8H:PRN Nausea/Vomiting - First Line 

5. QUEtiapine Fumarate 150 mg PO QHS 
6. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Moderate 

7. Omeprazole 20 mg PO BID 
8. Filgrastim-sndz 480 mcg SC Q24H 
9. LevoFLOXacin 500 mg PO Q24H 
10. Nicotine Patch 21 mg/day TD DAILY 
11. Loratadine 10 mg PO DAILY 

 
Discharge Medications:
1.  Bisacodyl 10 mg PO DAILY  
2.  Docusate Sodium 100 mg PO BID:PRN Constipation - First Line  

3.  Mupirocin Ointment 2% 1 Appl TP BID 
RX *mupirocin 2 % apply to affected areas twice a day Refills:*0 

4.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - Second Line  
5.  Polyethylene Glycol 17 g PO DAILY  
6.  Senna 8.6 mg PO BID  
7.  amLODIPine 10 mg PO DAILY  
8.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
Take higher dose for ___ days for pain related to Neupogen 
injections then resume prior dosing.   
9.  Acyclovir 400 mg PO Q12H  
10.  Loratadine 10 mg PO DAILY  
11.  LORazepam 0.5 mg PO DAILY  
12.  Nicotine Patch 21 mg/day TD DAILY  
13.  Omeprazole 20 mg PO BID  
14.  Prochlorperazine 5 mg PO Q8H:PRN Nausea/Vomiting - First 
Line  
15.  QUEtiapine Fumarate 150 mg PO QHS  
16.Outpatient Lab Work
Please obtain: CMP

please fax to: 
ATTN: ___
___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Multiple Myeloma
HTN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted for neupogen related chest and back pain. 
While you were admitted you received a cardiac work up to rule 
out your heart as the cause of the pain, this work up was 
unremarkable. Your pain was treated with narcotics which made 
your pain tolerable. Your nausea was treated with anti-emetics 
effectively. 

It was a pleasure taking care of you. Please continue to adhere 
to your ___ calendar.  

Sincerely, 
Your ___ team
 
Followup Instructions:
___